US04831029
A mixture of 5.09 g (0.04 mole) of 5-amino-3-dimethylamino-1H-1,2,4-triazole, 11.35 g (0.04 mole) of 1-benzyl-3-carbomethoxy-4-piperidone-hydrochloride and 40 ml of acetic acid is heated to boiling for 2 hours. The reaction mixture is allowed to stand at room temperature for 16 hours. To the mixture 70 ml of a 25% ammonium hydroxide solution are added, the precipitated crystals are filtered and washed with hot methanol. The product is heated to boiling with 20 ml of methanol for 10 minutes and filtered again. The crystals are dried and dissolved in hot dimethyl formamide. The product is precipitated by adding acetonitrile, filtered and washed with acetone. Thus 12.179 g of 7-benzyl-2-dimethylamino-6,7,8,9-tetrahydro-pyrido[4,3-d]-1,2,4-triazolo[1,5-a]pyrimidine-5(10H)-one are obtained, yield 58%, m.p.: 279°-281° C.

reactant | 5-amino-3-dimethylamino-1H-1,2,4-triazole | 0.04 mole, 5.09 g | NC1=NC(=NN1)N(C)C | C4H9N5
reactant | 1-benzyl-3-carbomethoxy-4-piperidone-hydrochloride | 0.04 mole, 11.35 g | Cl.C(C1=CC=CC=C1)N1CC(C(CC1)=O)C(=O)OC
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 7-benzyl-2-dimethylamino-6,7,8,9-tetrahydro-pyrido[4,3-d]-1,2,4-triazolo[1,5-a]pyrimidine-5(10H)-one | 12.179 g, yield 58% | C(C1=CC=CC=C1)N1CC2=C(N=C3N(C2)NC(=N3)N(C)C)C(C1)=O | C17H20N6O
